;Spice netlist for an inverter and a capacitor for NAND2
simulator lang=spectre

include "~/cadence/cellcharacs/model18.spi"
include "~/cadence/cellcharacs/cell18.spi"

vgnd (gnd 0) vsource dc=0
vvdd (vdd 0) vsource dc=1.8

vpwl (IV_in1 0) vsource type=pwl wave=[0n 0 1n 0 1.2n 1.8 4n 1.8 4.2n 0]

X1 (IV_in1 vdd IV_out vdd gnd) NAND2 wp=0.6u lp=0.2u wn=0.3u ln=0.2u 

;R1 (IV_out 1) resistor r=1
C1 (IV_out 0) capacitor c=33f

TransientAnalysis tran start=0 stop=10ns step=1ps
save IV_in1 IV_out





